US04579916
N,N'-Ethylenebis-(allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboximide)
204 g of allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride are initially taken and 30 g of ethylenediamine are added dropwise, with stirring. The temperature rises to 130° C. The temperature is increased to 180° C.; in the course of this 14 ml of water distil off. Heating is then continued for a further 2 hours at 200° C. and under a pressure of 9.3 Pa. This gives 210 g of a yellow resin, solid at room temperature and having a softening point of 56° C., measured on a Kofler heated stage.

reactant | allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 204 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | ethylenediamine | 30 g | C(CN)N | C2H8N2
product | N,N'-Ethylenebis-(allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboximide) | C(CN1C(=O)C2C3(C=CC(C2C1=O)C3)CC=C)N3C(=O)C1C2(C=CC(C1C3=O)C2)CC=C | C26H28N2O4
